US05516788
i) 4-nitro-2,6-dimethyl-1-ethoxybenzene
A mixture of 10 g (0.0598 mol) of 4-nitro-2,6-dimethylphenol, 16.5 g (0.1196 mol) of K2CO3 and 18.6 g (0.1196 mol) of ethyl iodide in 100 ml of acetonitrile was refluxed for 2.5 hours. The solid material was removed by hot filtration and was then washed with hot acetonitrile. The combined organic phase was evaporated and the resulting residue dissolved in ether. The ether phase was washed with water, dried (Na2SO4) and evaporated yielding 11.4 g (98%) of the product, M.p. 56° C.

reactant | 4-nitro-2,6-dimethylphenol | 0.0598 mol, 10 g | [N+](=O)([O-])C1=CC(=C(C(=C1)C)O)C | C8H9NO3
reactant | K2CO3 | 0.1196 mol, 16.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 0.1196 mol, 18.6 g | C(C)I | C2H5I
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-nitro-2,6-dimethyl-1-ethoxybenzene | 11.4 g, 98% | [N+](=O)([O-])C1=CC(=C(C(=C1)C)OCC)C | C10H13NO3
